US04235957
acetone-toluene (1:1 parts by volume) (solvent):
Three milliliters of this dispersion were added to a solution containing 0.3 millimoles (86 milligrams) of 1,1'-bi-2-naphthol (reducing agent) dissolved in 7 ml of a 2.0% by weight poly(vinyl butyral) solution in equal parts by volume acetone and toluene. 1.0 Milliliters of a photosensitive silver bromoiodide emulsion (6% iodide) in acetone and peptized with poly(vinyl butyral) was added to the resulting mixture with stirring.

reactant | 1,1'-bi-2-naphthol | 0.3 millimoles, 86 milligrams | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | iodide | [I-]
solvent | acetone | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | silver bromoiodide | BrI.[Ag]
product | acetone toluene | CC(=O)C.C1(=CC=CC=C1)C | InChI=1S/C7H8.C3H6O/c1-7-5-3-2-4-6-7;1-3(2)4/h2-6H,1H3;1-2H3
